US07427615B2
A solution of 2-benzoyl-4-benzylmorpholine (600 mg, 2.13 mmol) and chloroformic acid 1-chloromethyl ester (457 mg, 3.20 mmol) in 1,2-dichloroethane (8.0 ml) was refluxed for 1 h. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in methanol (10 ml). The solution was refluxed for 1 h and concentrated under reduced pressure. The crude product was crystallized from ethyl acetate and filtrated to give 2-benzoylmorpholine hydrochloride (323 mg, 67%) as a colorless crystal.

reactant | 2-benzoyl-4-benzylmorpholine | 2.13 mmol, 600 mg | C(C1=CC=CC=C1)(=O)C1CN(CCO1)CC1=CC=CC=C1 | C18H19NO2
reactant | chloroformic acid 1-chloromethyl ester | 3.20 mmol, 457 mg | ClCOC(=O)Cl | C2H2Cl2O2
solvent | 1,2-dichloroethane | 8.0 ml | ClCCCl | C2H4Cl2
product | 2-benzoylmorpholine hydrochloride | 323 mg, 67% | Cl.C(C1=CC=CC=C1)(=O)C1CNCCO1 | InChI=1S/C11H13NO2.ClH/c13-11(9-4-2-1-3-5-9)10-8-12-6-7-14-10;/h1-5,10,12H,6-8H2;1H
